US07544683B2
b) Step 2: trans-(4-isopropyl-piperazin-1-yl)-[4-(4-[1,3,4]oxadiazol-2-yl-phenoxy)-cyclohexyl]-methanone
According to the procedure described for example 1, the title compound had been synthesized from cis-(4-isopropyl-piperazin-1-yl)-(4-hydroxy-cyclohexyl)-methanone and 4-(1,3,4-oxadiazole-2-yl)-phenol. MS (m/e): 399.1 (MH+).

reactant | cis-(4-isopropyl-piperazin-1-yl)-(4-hydroxy-cyclohexyl)-methanone | C(C)(C)N1CCN(CC1)C(=O)[C@@H]1CC[C@@H](CC1)O | C14H26N2O2
reactant | 4-(1,3,4-oxadiazole-2-yl)-phenol | O1C(=NN=C1)C1=CC=C(C=C1)O | C8H6N2O2
product | trans-(4-isopropyl-piperazin-1-yl)-[4-(4-[1,3,4]oxadiazol-2-yl-phenoxy)-cyclohexyl]-methanone | C(C)(C)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)OC1=CC=C(C=C1)C=1OC=NN1 | C22H30N4O3
